US09029560B2
Preparation of 1-bromo-3-(but-3-en-1-yl)benzene (CA46)
To a solution of 1-bromo-3-(bromomethyl)benzene (10.0 g, 40.0 mmol) in tetrahydrofuran (50 mL), under an inert atmosphere was added allylmagnesium bromide (1.0 M in diethyl ether, 40.0 mL, 40.0 mmol). The reaction was allowed to reflux overnight. The reaction was quenched with sulfuric acid (2 M, 45 mL). The resulting biphasic solution was solution was partitioned. The aqueous layer was extracted with diethyl ether (2×50 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated. The resulting residue was purified by flash column chromatography using 100% hexanes as eluent providing the title compound as a clear liquid (7.51 g, 71%, ˜80% pure): 1H NMR (400 MHz, DMSO-d6) δ 7.42 (ddd, J=2.1, 1.4, 0.7 Hz, 1H), 7.37 (dt, J=7.1, 2.1 Hz, 1H), 7.28-7.18 (m, 2H), 5.81 (ddt, J=16.9, 10.2, 6.5 Hz, 1H), 5.09-4.90 (m, 2H), 2.67 (dd, J=8.6, 6.8 Hz, 2H), 2.32 (tdt, J=7.7, 6.5, 1.5 Hz, 2H); 13C NMR (101 MHz, DMSO-d6) δ 144.35, 137.61, 131.05, 130.28, 128.62, 127.44, 121.53, 115.37, 34.59, 33.91; EIMS m/z 210 ([M]+).

reactant | 1-bromo-3-(bromomethyl)benzene | 40.0 mmol, 10.0 g | BrC1=CC(=CC=C1)CBr | C7H6Br2
reactant | allylmagnesium bromide | 40.0 mmol, 1.0 M, 40.0 mL | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-bromo-3-(but-3-en-1-yl)benzene | 7.51 g | BrC1=CC(=CC=C1)CCC=C | C10H11Br
